US03997535
b. 3,4-Dihydro-4(2-hydroxyethyl)-3-oxo-2-quinoxalinecarboxylic acid
3,4-Dihydro-4(2-hydroxyethyl)-3-oxo-2- quinoxalinecarboxyic acid, ethyl ester (10 g) in aqueous sodium hydroxide (100 ml., 2N) was warmed at 80°-100° for 5 minutes. The yellow solution was acidified with hydrochloric acid (2N) and the solid that crystallised was collected and dried. It had m.p. 195° (d).

reactant | 3,4-Dihydro-4(2-hydroxyethyl)-3-oxo-2- quinoxalinecarboxyic acid, ethyl ester | 10 g | OCCN1C(C(=NC2=CC=CC=C12)C(=O)OCC)=O | C13H14N2O4
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | sodium hydroxide | 2N, 100 ml | [OH-].[Na+]
product | 3,4-Dihydro-4(2-hydroxyethyl)-3-oxo-2-quinoxalinecarboxylic acid | OCCN1C(C(=NC2=CC=CC=C12)C(=O)O)=O | C11H10N2O4
